US04376204
Methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide (I; Y=OCH3)
In a manner similar to Example 6, 864 mg. (0.036 mole) of 99% sodium hydride was added over a two hour period to a solution of 2.9 g. (0.015 mole) of N-methylsaccharin and 9.8 g. (0.09 mole) of methylchloroacetate in 10 ml. of dimethylsulfoxide at 40° C. Stirring was continued at 40°-45° C. for an additional two hours, and the reaction mixture was poured into 150 ml. of 5% hydrochloric acid solution. The precipitate was filtered and dried to give 3.07 (76%) of the desired product.

reactant | sodium hydride | 0.036 mole | [H-].[Na+]
reactant | N-methylsaccharin | 0.015 mole | CN1S(=O)(=O)C2=CC=CC=C2C1=O | C8H7NO3S
reactant | methylchloroacetate | 0.09 mole | COC(CCl)=O | C3H5ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | Methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)OC | C11H11NO5S
